US07547786B2
2-Cyano-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine
A solution of sodium hydrogencarbonate (272.33 mg) in water (5 mL) was added to 2-cyano-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine hydrochloride monohydrate (500.30 mg) at room temperature, and after all ingredients were completely dissolved, the resultant solution was extracted with toluene three times (10 mL×3). The toluene layers were combined, and the combined toluene layer was dried over sodium sulfate anhydrate (2.00 g). After any insoluble material was filtered off, the filtrate was concentrated at 40° C. under reduced pressure, to thereby give 384.28 mg of the title compound.

reactant | sodium hydrogencarbonate | 272.33 mg | C(O)([O-])=O.[Na+]
reactant | 2-cyano-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine hydrochloride monohydrate | 500.30 mg | O.Cl.C(#N)C=1SC=2CN(CCC2N1)C
solvent | water | 5 mL | O | H2O
product | 2-Cyano-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 384.28 mg | C(#N)C=1SC=2CN(CCC2N1)C | C8H9N3S
